US04661505
6-(4-Acetyl-3-hydroxy-2-propylphenoxy)nonanoic acid
Following the procedures of Examples 15 E and 15F, 1.18 g. of methyl 6-bromo-nonanoate and 0.91 g. of 2,4-dihydroxy-3-propylacetophenone were reacted in the presence of 0.65 g. of potassium carbonate in 40 ml. of acetone. Hydrolysis of the ester intermediate with sodium hydroxide in aqueous ethanol gave the title product, M+ =350; NMR.

reactant | methyl 6-bromo-nonanoate | BrC(CCCCC(=O)OC)CCC | C10H19BrO2
reactant | 2,4-dihydroxy-3-propylacetophenone | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)nonanoic acid | C(C)(=O)C1=C(C(=C(OC(CCCCC(=O)O)CCC)C=C1)CCC)O | C20H30O5
